US07138410B2
(3R)-N-[4′-(Hydroxymethyl)-3′-(methoxy)-1,1′-biphenyl-4-yl]-1-azabicyclo[2.2.2]-octane-3-carboxamide
118 mg (0.47) of bis(pinacolato)diboron, 193 mg (1.4 mmol) of dry potassium carbonate, and (4-bromo-2-methoxyphenyl)methanol are dissolved in 1 ml of DMF. Argon is passed through the reaction mixture for 15 minutes, and then 14.2 mg (0.02 mmol) of PdCl2(dppf) are added, and the mixture is heated at 85° C. overnight. Then, 120 mg (0.39 mmol) of (3R)-N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide, 1.94 ml of 1N sodium hydroxide solution and a further 14.2 mg (0.02 mmol) of PdCl2(dppf) are added. The mixture is heated at 85° C. overnight. The solvent is removed under reduced pressure. The crude product is purified by chromatography on silica gel 60 (mobile phase: dichloromethane→dichloromethane/methanol/ammonia 60:40:2). The solvent is stripped off under reduced pressure, and final residues of solvent are removed under high vacuum. 5 mg (4% of theory) of the title compound are obtained.

reactant | bis(pinacolato)diboron | 118 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium carbonate | 1.4 mmol, 193 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (4-bromo-2-methoxyphenyl)methanol | BrC1=CC(=C(C=C1)CO)OC | C8H9BrO2
reactant | (3R)-N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide | 0.39 mmol, 120 mg | BrC1=CC=C(C=C1)NC(=O)[C@H]1CN2CCC1CC2 | C14H17BrN2O
reactant | sodium hydroxide | 1N, 1.94 ml | [OH-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.02 mmol, 14.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 0.02 mmol, 14.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (3R)-N-[4′-(Hydroxymethyl)-3′-(methoxy)-1,1′-biphenyl-4-yl]-1-azabicyclo[2.2.2]-octane-3-carboxamide | OCC1=C(C=C(C=C1)C1=CC=C(C=C1)NC(=O)[C@H]1CN2CCC1CC2)OC | C22H26N2O3
